US08049016B2
Synthesis of 1-(4-methyl-5-(5-methyl-4H-1,2,4-triazol-3-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one
To a solution of 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide (0.19 g, 0.50 mmol) in anhydrous 1,4-dioxane (5.0 mL) was added N,N-dimethylacetamide dimethylacetal (0.50 g, 3.50 mmol). The resulting mixture was refluxed for 16 h and concentrated in vacuo and acetic acid (5.0 mL) and hydrazine monohydrate (0.15 g, 3.00 mmol) was slowly added to the residue. The reaction mixture was stirred at 100° C. for 4 h and concentrated in vacuo. The residue was suspended in saturated aqueous sodium bicarbonate solution (150 mL) and extracted with ethyl acetate (3×80 mL). The organic layer was dried over anhydrous sodium sulphate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography eluted with 2-10% methanol in dichloromethane to afford the title compound as a colorless solid (0.12 g, 58%): mp 273-274° C. (ethyl acetate); 1H NMR (300 MHz, DMSO-d6) δ 13.64 (s, 1H), 7.74 (d, J=8.2 Hz, 2H), 7.55 (d, J=8.2 Hz, 2H), 4.55 (s, 2H), 4.06-4.00 (m, 2H), 3.52-3.47 (m, 2H), 2.57 (s, 3H), 2.38 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 156.4, 156.3, 155.3, 153.0, 145.0, 141.6 (d, JC-F=1 Hz), 128.4, 128.1 (q, 2JC-F=32 Hz), 125.5 (q, 3JC-F=4 Hz), 124.3 (q, 1JC-F=272 Hz), 115.3, 46.5, 42.0, 41.9, 16.7, 11.5; MS (ES+) m/z 422.9 (M+1).

reactant | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carboxamide | 0.50 mmol, 0.19 g | CC=1N=C(SC1C(=O)N)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H15F3N4O2S
reactant | N,N-dimethylacetamide dimethylacetal | 3.50 mmol, 0.50 g | COC(C)(N(C)C)OC | C6H15NO2
reactant | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 3.00 mmol, 0.15 g | O.NN
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 1-(4-methyl-5-(5-methyl-4H-1,2,4-triazol-3-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 0.12 g, 58% | CC=1N=C(SC1C1=NN=C(N1)C)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C18H17F3N6OS
